US07288544B2
2) Synthesis of 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-1,4-dihydropyrimidine-5-carboxylic acid ethylester:
3.33 g (13.2 mmol) of 2-acetyl-3-(3-chlorophenyl) acrylic acid ethylester was dissolved in 30 ml of n-butanol. 2.93 g (10.5 mmol) of methylisothiourea-sulfate and 2.00 g (19.8 mmol) of triethylamine were added at room temperature and stirred at 100° C. for one day. After n-butanol was evaporated under reduced pressure, the reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1) to obtain the title compound.

reactant | 2-acetyl-3-(3-chlorophenyl) acrylic acid ethylester | 13.2 mmol, 3.33 g | C(C)OC(C(=CC1=CC(=CC=C1)Cl)C(C)=O)=O | C13H13ClO3
reactant | methylisothiourea sulfate | 10.5 mmol, 2.93 g | CNC(S)=N.S(=O)(=O)([O-])[O-]
reactant | triethylamine | 19.8 mmol, 2.00 g | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 30 ml | C(CCC)O | C4H10O
product | 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-1,4-dihydropyrimidine-5-carboxylic acid ethylester | C(C)OC(=O)C=1C(N=C(NC1C)SC)C1=CC(=CC=C1)Cl | C15H17ClN2O2S
